US04734510
(b) 4-Amino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide
4-Acetylamino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide (6.5 g, 0.02 mole) was dissolved in 50 ml of 2N aqueous sodium hydroxide. The solution was heated to reflux, with stirring, for 11/2 hours. The solution was cooled and the pH was adjusted to about 8 with hydrochloric acid (2N). The mixture was extracted with chloroform (3×50 ml) and the combined extracts were dried (MgSO4) and evaporated under reduced pressure to give a solid (4.9 g). The solid was purified by column chromatography (basic Al2O3 : 1% ethanol/chloroform), followed by recrystallisation from water, to give the pure title compound m.p. 109°-110° C.

reactant | 4-Acetylamino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide | 0.02 mole, 6.5 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCC1N(CCC1)CC | C15H23N3O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 4-Amino-N-[(1-ethyl-2-pyrrolidinyl)methyl]benzenesulphonamide | 4.9 g | NC1=CC=C(C=C1)S(=O)(=O)NCC1N(CCC1)CC | C13H21N3O2S
